US07186729B2
To a solution of 4-(4-chloro-phenyl)-3,4-dihydroxy-piperidine-1-carboxylic acid tert-butyl ester (1.213 g, 3.34 mmol) in methylene chloride (30 mL) at −78° C. was added diethylaminosulfur trifluoride (DAST, 3 mL). The resulting solution was stirred at −78° C. 4 h. Methanol (20 mL) was added to quench excess DAST and the mixture was allowed to remain at −78° C. 5 min before warming to rt. The mixture was concentrated and purified by silica gel chromatography (80% hexanes/20% ethyl acetate gradient) to afford 4-(4-chloro-phenyl)-4-fluoro-piperidin-3-ol (262 mg, 24%).

reactant | 4-(4-chloro-phenyl)-3,4-dihydroxy-piperidine-1-carboxylic acid tert-butyl ester | 3.34 mmol, 1.213 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)(O)C1=CC=C(C=C1)Cl)O | C16H22ClNO4
reactant | diethylaminosulfur trifluoride | 3 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | Methanol | 20 mL | CO | CH4O
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-chloro-phenyl)-4-fluoro-piperidin-3-ol | 262 mg, 24% | ClC1=CC=C(C=C1)C1(C(CNCC1)O)F | C11H13ClFNO
